US08648200B2
2-Methyl-3-(p-tolyl)imidazo[1,2-a]pyrimidine
Add 3-(4-bromophenyl)-2-methyl-imidazo[1,2-a]pyrimidine (1.00 g, 3.470 mmol) and DMF (17 mL) to a 50 mL screw-cap vial (fitted with stir bar). Degas the solution with nitrogen for 3 min. Add tetramethylstannane (1.91 mL, 13.88 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.36 g, 520.57 μmol) to the vial, and close the vial. Heat the mixture in an oil bath to 130° C. for 2 hours. Cool the reaction to room temperature, and quench with an excess of water. Extract the mixture with EtOAc. Wash the combined organic extracts with brine. Dry the organic extracts over potassium carbonate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure. Purify the crude mixture by silica gel chromatography with a gradient of 50-100% hexane/EtOAc to give the title compound as a white solid (0.50 g, 64% yield). LCMS (m/z) 224.2 (M+1). 1H NMR (399.83 MHz, d6-DMSO) δ 8.81-8.79 (m, 1H), 8.51-8.49 (m, 1H), 7.73 (d, J=7.9 Hz, 2H), 7.31 (d, J=7.9 Hz, 2H), 7.09-7.06 (m, 1H), 2.64 (s, 3H), 2.36 (s, 3H).

reactant | 3-(4-bromophenyl)-2-methyl-imidazo[1,2-a]pyrimidine | 3.470 mmol, 1.00 g | BrC1=CC=C(C=C1)C1=C(N=C2N1C=CC=N2)C | C13H10BrN3
reactant | tetramethylstannane | 13.88 mmol, 1.91 mL | C[Sn](C)(C)C
catalyst | bis(triphenylphosphine)palladium(II) chloride | 520.57 μmol, 0.36 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-3-(p-tolyl)imidazo[1,2-a]pyrimidine | 0.50 g, 64% yield | CC=1N=C2N(C=CC=N2)C1C1=CC=C(C=C1)C | C14H13N3
